US05508293
The propyl 5-amino-3-pyridinecarboximidate (110 mg, 0.6 mmol) was then dissolved in acetonitrile (1 ml), and an aqueous solution (2 ml) of NaH2PO4 ·2H2O(375 mg, 2.4 mmol), Na2HPO4 (85 mg, 0.6 mmol) and NH2CN (50 mg, 1.2 mmol) was added to the solution. The mixture was stirred at room temperature for 19 hours. After the completion of the reaction, the reaction mixture was extracted with chloroform (20 ml×3), and the chloroform layer was dried over- anhydrous sodium sulfate and concentrated under reduced pressure to give a crude oil of propyl 5-amino-N-cyano-3-pyridinecarboximidate (100 mg, yield 82%).

reactant | propyl 5-amino-3-pyridinecarboximidate | 0.6 mmol, 110 mg | NC=1C=C(C=NC1)C(OCCC)=N | C9H13N3O
reactant | NH2CN | 1.2 mmol, 50 mg | NC#N | CH2N2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | propyl 5-amino-N-cyano-3-pyridinecarboximidate | 100 mg, yield 82% | NC=1C=C(C=NC1)C(OCCC)=NC#N | C10H12N4O
